US04959361
potassium tert.-butoxide, 2.5 g, was added to a suspension of 4.5 g of 5H-dibenz[b,e]azepine-6,11-dione in 50 ml of dimethylformamide. After stirring under nitrogen for 30 minutes, 2 ml of propargyl bromide was added and stirring was continued for I hour at room temperature. The reaction mixture was acidified with acetic acid and diluted with water. The precipitate was filtered off and sucked dry. The solids were dissolved in methylene chloride. The solution was dried and evaporated and the residue was chromatographed over 120 g of silica gel using methylene chloride. The combined clean fractions containing product were evaporated and the residue was crystallized from ether/hexane to give colorless crystals of 5-(2-propynyl)-5H-dibenz[b,e]azepine-6,11-dione with m.p. 117°-118°.

reactant | potassium tert.-butoxide | CC(C)([O-])C.[K+]
reactant | 5H-dibenz[b,e]azepine-6,11-dione | 4.5 g | C1=CC=CC=2NC(C3=C(C(C21)=O)C=CC=C3)=O | C14H9NO2
reactant | propargyl bromide | 2 ml | C(C#C)Br | C3H3Br
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-(2-propynyl)-5H-dibenz[b,e]azepine-6,11-dione | C(C#C)N1C2=C(C(C3=C(C1=O)C=CC=C3)=O)C=CC=C2 | C17H11NO2
